US05010100
Trifluoroacetic acid (10%, v/v) in chloroform (500 mL) was added to a stirred 0° C. solution of 1-(5-(2-hydroxyethylsulfonyl)-4-n-propoxy-3-methoxyphenyl)-4-(3,4,5-trimethoxyphenyl) butan-1,4-diol (75 g, 0.142 mole) in chloroform (500 mL). The temperature was slowly raised to room temperature and the mixture stirred for 3-4 hours. Anhydrous Na2CO3 (80 g, 0.75 mole) was added to this solution, and the mixture was stirred vigorously for 30 minutes. The solid was filtered off, and the filtrate was evaporated to a residue, which was purified by flash column chromatography on SiO2 eluted with hexane-ethyl acetate (6:1, v/v) to afford the desired trans isomer which is more mobile than the cis isomer. The product was recrystallized from methylene chloride-hexane to give of pure trans-2-(5-(2-hydroxyethylsulphonyl)-4-n-propoxy-3-methoxyphenyl)-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran, m.p. 141°-142° C. NMR (CDCl3) δ: 1.03 (t, J=7.8 Hz, CH2CH2CH3), 1.85 (m, CH2CH2CH3), 2.01, 2.46 (m, H-3 and H-4), 3.64 (m, SO2CH2CH2OH) 3.84, 3.86, 3.88 (35, 4 OCH3), 4.89 (m, SO2CH2CH2OH), 4.07 (t, J=8 Hz, OCH2CH2CH3), 5.13 (m, H-2 and H-5) 6.62 (s, Ar-H H-2 and H-6), 7.32 (d, J=2 Hz, Ar-H H-6), 7.52 (d, J=2 Hz, Ar-H H-2).

reactant | Trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-(5-(2-hydroxyethylsulfonyl)-4-n-propoxy-3-methoxyphenyl)-4-(3,4,5-trimethoxyphenyl) butan-1,4-diol | 0.142 mole, 75 g | OCCS(=O)(=O)C=1C(=C(C=C(C1)C(CCC(O)C1=CC(=C(C(=C1)OC)OC)OC)O)OC)OCCC | C25H36O10S
reactant | Na2CO3 | 0.75 mole, 80 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
product | trans-2-(5-(2-hydroxyethylsulphonyl)-4-n-propoxy-3-methoxyphenyl)-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran | OCCS(=O)(=O)C=1C(=C(C=C(C1)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC)OC)OCCC | C25H34O9S
